US08957062B2
Step C: benzyl 4-[(1R,2S)-2-(2-{[3-methyl-5-(1H-tetrazol-1-yl)pyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboxylate
To a solution of benzyl 4-((1R,2S)-2-{-[(5-amino-3-methylpyridin-2-yl)oxy]ethyl}cyclopropyl)piperidine-1-carboxylate (1.20 g, 2.93 mmol) in acetic acid (50 mL) was added sodium azide (762 mg, 11.72 mmol) followed by triethyl orthoformate (1.95 mL, 11.72 mmol) and the resulting solution was heated to 60° C. and stirred for 3 hours. The volatiles were removed in vacuo and the residue was partitioned between NaHCO3 and ethyl acetate. The aqueous was again extracted with ethyl acetate (100 mL). The organics were combined, washed by brine, dried on sodium sulfate, filtered, and the filtrate concentrated under reduced pressure. The residue was purified on Biotage column (40 M+ silica gel) using a gradient eluant of 0-100% ethyl acetate in hexane (800 ml) to afford the title compound. LC/MS (m/z): 463 (M+H)+.

reactant | benzyl 4-((1R,2S)-2-{-[(5-amino-3-methylpyridin-2-yl)oxy]ethyl}cyclopropyl)piperidine-1-carboxylate | 2.93 mmol, 1.20 g | NC=1C=C(C(=NC1)OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)C | C24H31N3O3
reactant | sodium azide | 11.72 mmol, 762 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethyl orthoformate | 11.72 mmol, 1.95 mL | C(OCC)(OCC)OCC | C7H16O3
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | benzyl 4-[(1R,2S)-2-(2-{[3-methyl-5-(1H-tetrazol-1-yl)pyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboxylate | CC=1C(=NC=C(C1)N1N=NN=C1)OCC[C@H]1[C@H](C1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C25H30N6O3
